US08431578B2
(4-{5-[6-Benzyloxy-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(3-dimethylamino-pyrrolidin-1-yl)-methanone
This compound is prepared from (4-{5-[6-chloro-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(3-dimethylamino-pyrrolidin-1-yl)-methanone (Ex. 16) and benzyl alcohol analogously to Example 8; [M+H]+=571.

reactant | (4-{5-[6-chloro-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(3-dimethylamino-pyrrolidin-1-yl)-methanone | ClC1=CC(=NC(=N1)C1=NC(=CC=C1)C)C=1C=C(C=NC1)C1=CC=C(C=C1)C(=O)N1CC(CC1)N(C)C | C28H27ClN6O
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | (4-{5-[6-Benzyloxy-2-(6-methyl-pyridin-2-yl)-pyrimidin-4-yl]-pyridin-3-yl}-phenyl)-(3-dimethylamino-pyrrolidin-1-yl)-methanone | C(C1=CC=CC=C1)OC1=CC(=NC(=N1)C1=NC(=CC=C1)C)C=1C=C(C=NC1)C1=CC=C(C=C1)C(=O)N1CC(CC1)N(C)C | C35H34N6O2
